US07427616B2
(1-Methyl-4-phenyl-1H-imidazol-5-yl)methanol
Methylamine (33% in industrial methylated spirits, 60.3 mL) was added to a solution of glycolaldehyde dimer (2.7 g) in THF (320 mL). After 75 minutes 1-{[isocyano(phenyl)methyl]sulfonyl}-4-methylbenzene (PhTosMIC) (Org. Syn., 77, 198-205) (10.8 g) was added, cooling to keep the reaction temperature below 30° C. The reaction was stirred for 90 minutes and the solvent evaporated to a volume of 100 mL. Water (500 mL) was added, and the title compound (4.94 g, 66%) collected by filtration as a white solid. The filtrate was extracted into EtOAc, dried, and the solvent removed in vacuo. The residue was triturated with EtOAc to give a further 1.06 g (14%) as a white solid.

reactant | Methylamine | 60.3 mL | CN | CH5N
reactant | glycolaldehyde dimer | 2.7 g | C1C(OCC(O1)O)O | C4H8O4
reactant | 1-{[isocyano(phenyl)methyl]sulfonyl}-4-methylbenzene | 10.8 g | [N+](#[C-])C(S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C15H13NO2S
solvent | THF | 320 mL | C1CCOC1 | C4H8O
product | (1-Methyl-4-phenyl-1H-imidazol-5-yl)methanol | CN1C=NC(=C1CO)C1=CC=CC=C1 | C11H12N2O
